### PR TITLE
feat: add `Char.all`, `Char.any` and decidability instances

### PR DESCRIPTION
**Pull request by fgdorais**

### CODE REVIEW

File: Batteries/Data/Char/Basic.lean [hunk 1]
```diff
@@ -22,3 +26,98 @@ theorem toNat_ofNat (n : Nat) : toNat (ofNat n) = if n.isValidChar then n else 0
   split
   · simp [ofNat, *]
   · simp [ofNat, toNat, *]
+
+/-- Returns `true` if `p` returns true for every `Char`. -/
+protected def all (p : Char → Bool) : Bool :=
+  Nat.all 1114112 fun c h =>
```
Comment (kim-em) [inline Batteries/Data/Char/Basic.lean]: I'm really not keen on all these unexplained magic constants. Can they be factored out? Linked to documentation?

Comment (fgdorais) [reply Batteries/Data/Char/Basic.lean]: Documented.

**Comment by fgdorais** [comment]
@kim-em Is this good to merge?

File: Batteries/Data/Char/Basic.lean [hunk 2]
```diff
@@ -22,3 +26,102 @@ theorem toNat_ofNat (n : Nat) : toNat (ofNat n) = if n.isValidChar then n else 0
...
+protected def all (p : Char → Bool) : Bool :=
+  -- 0x10FFFF (1114111) is the maximal valid code point.
+  Nat.all 0x110000 fun c h =>
+    -- Surrogate code points are from 0xD800 (55296) to 0xDFFF (57343).
+    if h₁ : c < 0xD800 then
+      p <| Char.ofNatAux c <| .inl h₁
+    else if h₂ : 0xDFFF < c then
+      p <| Char.ofNatAux c <| .inr ⟨h₂, h⟩
+    else
+      true
```
Comment (eric-wieser) [inline Batteries/Data/Char/Basic.lean]: This might be slightly faster:
```suggestion
  (Nat.all 0xD800 fun c h => p <| Char.ofNatAux c <| .inl h) &&
  (Nat.all (0x110000 - 0xE000) fun c h => p <| Char.ofNatAux (c + 0xE000) <| .inr <| by omega)
```
though a version of `Nat.all` with a lower bound would obviously be more readable.

File: Batteries/Data/Char/Basic.lean [hunk 3]
```diff
@@ -22,3 +26,102 @@ theorem toNat_ofNat (n : Nat) : toNat (ofNat n) = if n.isValidChar then n else 0
...
+  | .inl hn =>
+    have hn' : n < 1114112 := by omega
+    have := h ⟨n, hn'⟩ (List.mem_finRange _)
+    rwa [dif_pos hn] at this
+  | .inr ⟨hn, hn'⟩ =>
+    have hn'' : ¬ n < 55296 := by omega
+    have := h ⟨n, hn'⟩ (List.mem_finRange _)
+    rwa [dif_neg hn'', dif_pos hn] at this
+
+theorem eq_true_of_all_eq_true (h : Char.all p) (c : Char) : p c := by
```
Comment (eric-wieser) [inline Batteries/Data/Char/Basic.lean:53]: Could you add the `iff` version, `Char.all p = true ↔ ∀ c, p c = true`?

File: Batteries/Data/Char/Basic.lean [hunk 4]
```diff
@@ -22,3 +26,102 @@ theorem toNat_ofNat (n : Nat) : toNat (ofNat n) = if n.isValidChar then n else 0
...
+  Nat.any 0x110000 fun c h =>
+    -- Surrogate code points are from 0xD800 (55296) to 0xDFFF (57343).
+    if h₁ : c < 0xD800 then
+      p <| Char.ofNatAux c <| .inl h₁
+    else if h₂ : 0xDFFF < c then
+      p <| Char.ofNatAux c <| .inr ⟨h₂, h⟩
+    else
+      false
+
+theorem exists_eq_true_of_any_eq_true (h : Char.any p) : ∃ c, p c := by
```
Comment (eric-wieser) [inline Batteries/Data/Char/Basic.lean]: Stylistically I'd perhaps argue for
```suggestion
theorem exists_eq_true_of_any_eq_true (h : Char.any p = true) : ∃ c, p c = true := by
```
to make the choice of name more obvious.

File: Batteries/Data/Char/Basic.lean (hunk 2 above)
Comment (fgdorais) [reply Batteries/Data/Char/Basic.lean]: In what way is it faster?

File: Batteries/Data/Char/Basic.lean (hunk 3 above)
Comment (fgdorais) [reply Batteries/Data/Char/Basic.lean:53]: Will do.

File: Batteries/Data/Char/Basic.lean (hunk 2 above)
Comment (eric-wieser) [reply Batteries/Data/Char/Basic.lean]: In the sense that when you measure it it takes less time :)

Here's a benchmark:
```lean
namespace Char

def all1 (p : Char → Bool) : Bool :=
  (Nat.all 0xD800 fun c h => p <| Char.ofNatAux c <| .inl h) &&
  (Nat.all (0x110000 - 0xE000) fun c h => p <| Char.ofNatAux (c + 0xE000) <| .inr <| by omega)

def all2 (p : Char → Bool) : Bool := Id.run do
  for h : c in [0:0xD800] do
    have : c < 0xD800 := h.2.1
    if p (Char.ofNatAux c <| by omega) = false then
      return false
  for h : c in [0xE000:0x110000] do
    have : 0xE000 ≤ c := h.1
    have : c < 0x110000 := h.2.1
    if p (Char.ofNatAux c <| by omega) = false then
      return false
  return true

/-- Returns `true` if `p` returns true for every `Char`. -/
def all3 (p : Char → Bool) : Bool :=
  -- 0x10FFFF (1114111) is the maximal valid code point.
  Nat.all 0x110000 fun c h =>
    -- Surrogate code points are from 0xD800 (55296) to 0xDFFF (57343).
    if h₁ : c < 0xD800 then
      p <| Char.ofNatAux c <| .inl h₁
    else if h₂ : 0xDFFF < c then
      p <| Char.ofNatAux c <| .inr ⟨h₂, h⟩
    else
      true

set_option trace.profiler true in
#eval all1 fun _ => true  -- 0.64

set_option trace.profiler true in
#eval all2 fun _ => true  -- 0.50

set_option trace.profiler true in
#eval all3 fun _ => true  -- 0.73
```

Comment (fgdorais) [reply Batteries/Data/Char/Basic.lean]: Of course! I will fix that.

Comment (eric-wieser) [reply Batteries/Data/Char/Basic.lean]: I would guess there's also some performence to win by iterating over UInt32s instead of Nat.

Comment (eric-wieser) [reply Batteries/Data/Char/Basic.lean]: Indeed, this is more like 0.36s, twice as fast as your original:
```lean-4
@[specialize]
def UInt32.allRange (a b : UInt32) (p : ∀ x, a ≤ x → x < b → Bool) : Bool :=
  if h : a < b then
    have : (b - (a + 1)).toNat < (b - a).toNat := sorry
    p a (Nat.le_refl _) h && UInt32.allRange (a + 1) b fun x ha hb => p x (sorry) hb
  else
    true
termination_by b - a

def all4 (p : Char → Bool) : Bool :=
  (UInt32.allRange 0 0xD800 fun c _ h => p <| Char.mk c <| .inl h) &&
  (UInt32.allRange 0xE000 0x110000 fun c h₁ h₂ => p <| Char.mk c <| .inr sorry)
```

File: Batteries/Data/Char/Basic.lean [hunk 5]
```diff
@@ -22,3 +26,102 @@ theorem toNat_ofNat (n : Nat) : toNat (ofNat n) = if n.isValidChar then n else 0
   split
   · simp [ofNat, *]
   · simp [ofNat, toNat, *]
+
+/-- Returns `true` if `p` returns true for every `Char`. -/
+protected def all (p : Char → Bool) : Bool :=
+  -- 0x10FFFF (1114111) is the maximal valid code point.
```
Comment (kim-em) [inline Batteries/Data/Char/Basic.lean]: Could assertion such as this come with a link to a source?

File: Batteries/Data/Char/Basic.lean [hunk 6]
```diff
@@ -1,10 +1,14 @@
...
 Copyright (c) 2022 Jannis Limperg. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Jannis Limperg
+Authors: Jannis Limperg, François G. Dorais
 -/
 import Batteries.Classes.Order
 
+-- Forward port of lean4#9515
+theorem List.mem_finRange (x : Fin n) : x ∈ finRange n := by
+  simp [finRange]
```
Comment (kim-em) [inline Batteries/Data/Char/Basic.lean:11]:
```suggestion
@[grind]
theorem List.mem_finRange (x : Fin n) : x ∈ finRange n := by
  simp [finRange]
```

File: Batteries/Data/Char/Basic.lean [hunk 7]
```diff
@@ -22,3 +26,102 @@ theorem toNat_ofNat (n : Nat) : toNat (ofNat n) = if n.isValidChar then n else 0
...
+  simp only [Nat.isValidChar] at hn
+  match hn with
+  | .inl hn =>
+    have hn' : n < 1114112 := by omega
+    have := h ⟨n, hn'⟩ (List.mem_finRange _)
+    rwa [dif_pos hn] at this
+  | .inr ⟨hn, hn'⟩ =>
+    have hn'' : ¬ n < 55296 := by omega
+    have := h ⟨n, hn'⟩ (List.mem_finRange _)
+    rwa [dif_neg hn'', dif_pos hn] at this
```
Comment (kim-em) [inline Batteries/Data/Char/Basic.lean]:
```suggestion
  | .inl hn =>
    specialize h ⟨n, by grind⟩
    grind
  | .inr ⟨hn, hn'⟩ =>
    specialize h ⟨n, by grind⟩
    grind
```

File: Batteries/Data/Char/Basic.lean [hunk 8]
```diff
@@ -22,3 +26,102 @@ theorem toNat_ofNat (n : Nat) : toNat (ofNat n) = if n.isValidChar then n else 0
...
+    · split at h
+      · refine ⟨ofNatAux n (.inr ⟨?_, hn⟩), h⟩; assumption
+      · simp at h
+
+private theorem of_any_eq_false_aux (h : Char.any p = false) (n : Nat) (hn : n.isValidChar) :
+    p (.ofNatAux n hn) = false := by
+  simp only [Char.any, Nat.any_eq_finRange_any, List.any_eq_false] at h
+  simp only [Nat.isValidChar] at hn
+  match hn with
+  | .inl hn =>
```
Comment (kim-em) [inline Batteries/Data/Char/Basic.lean]: Similarly here.

**Review by kim-em — APPROVED** [review]

File: Batteries/Data/Char/Basic.lean (hunk 5 above)
Comment (eric-wieser) [reply Batteries/Data/Char/Basic.lean]: Presumably the source is just `UInt32.isValidChar`? In practice the unicode spec isn't relevant, only that this enumerates every `Char`.

File: Batteries/Data/Char/Basic.lean (hunk 2 above)
Comment (fgdorais) [reply Batteries/Data/Char/Basic.lean]: I used `all1` since the necessary API already exists. Ultimately, an iterator will probably give the fastest version.
